US04933114
STEP D. Tricosa-10,12-diynoic acid anhydride
Tricosa-10,12-diynoic acid (7.0 g, 0.02 mol) and 2.3 g (0.011 mol) dicyclohexylcarbodiimide were allowed to react in 50 mL dry carbon tetrachloride for 24 hours. The reaction mixture was filtered, the precipitate washed with ether, and the filtrate evaporated. The residue was recrystallized from ether at 0°, yield 6.45 g (95%), mp 58°-59.5°; IR (KBr) 1820, 1960 (νCO), no band for OH; nmr (CDCl3) 0.9 (distorted triplet, 3 H, CH3), 2.28 (m, 28 H, CH2), 2.22 and 2.35 (dist. t and t, 6 H, CH2C≡ and CH2C≡O, respectively).

reactant | Tricosa-10,12-diynoic acid | 0.02 mol, 7.0 g | C(CCCCCCCCC#CC#CCCCCCCCCCC)(=O)O | C23H38O2
reactant | dicyclohexylcarbodiimide | 0.011 mol, 2.3 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | carbon tetrachloride | 50 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | Tricosa-10,12-diynoic acid anhydride | C(CCCCCCCCC#CC#CCCCCCCCCCC)(=O)OC(CCCCCCCCC#CC#CCCCCCCCCCC)=O | C46H74O3
